US04146384
8.8 g (0.1 mole) of 3-hydroxy-tetrahydrofurane were added dropwise, whilst stirring, to a mixture of 2.8 g (0.12 mole) of sodium hydride (3.5 g of 80% strength sodium hydride in paraffin oil) in 100 ml of absolute dioxan at room temperature. The mixture was then heated for 30 minutes under reflux. After cooling to 50° C., 19 g (0.1 mol) of 2-fluorobenzyl bromide were added dropwise to the sodium salt thus obtained. The mixture was then heated for 3 hours under reflux and was allowed to cool to room temperature, 10 ml of methanol were added to destroy the excess sodium hydride, and the mixture was concentrated by distilling off the solvent in vacuo. The residue was taken up in 100 ml of water and extracted with methylene chloride. The organic phase was dried over sodium sulphate and concentrated. The residue was distilled in vacuo. 15.7 g (80% of theory) of 3-(2-fluorobenzyloxy)-tetrahydrofurane of boiling point 89° C./0.1 mm Hg were obtained.

reactant | 3-hydroxy-tetrahydrofurane | 0.1 mole, 8.8 g | OC1COCC1 | C4H8O2
reactant | sodium hydride | 0.12 mole, 2.8 g | [H-].[Na+]
reactant | 2-fluorobenzyl bromide | 0.1 mol, 19 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | sodium | [Na] | Na
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 3-(2-fluorobenzyloxy)-tetrahydrofurane | 15.7 g, 80% | FC1=C(COC2COCC2)C=CC=C1 | C11H13FO2
